US07173129B2
Ex-13A: To a solution of 3-(tert-butyldimethylsilanyloxy)-2-(tert-butyldimethylsilanyloxymethyl)propan-1-ol (25.0 g, 74.3 mmol) and triethylamine (22.6 g, 223 mmol) in dichloromethane (150 mL) at 0° C. was added methanesulfonyl chloride (12.8 g, 111 mmol) and the resulting slurry was stirred at 0° C. for 15 min and allowed to warm to room temperature. The solution was stirred for an additional 3 h at room temperature and diluted with water (130 mL) and ethyl acetate (350 mL). The layers were separated and the aqueous was extracted with ethyl acetate (150 mL). The combined organic extracts were washed with a saturated sodium bicarbonate (200 mL), a 50% sodium chloride solution (2×200 mL), dried over sodium sulfate and concentrated to afford 29.5 g (97%) of methanesulfonic acid 3-(tert-butyldimethylsilanyloxy)-2-(tert-butyldimethylsilanyloxymethyl)propyl ester as a yellow oil. 1H-NMR (300 MHz, CDCl3) δ 4.29 (d, 2H, J=5.7 Hz), 3.61–3.68 (m, 4H), 2.99 (s, 3H), 2.04–2.11 (m, 1H), 0.88 (s, 18H), 0.049 (s, 12H). HRMS (ESI) Calcd. for C17H40O5SSi2: 413.2213 (M+H)+; Found: 413.2226.

reactant | 3-(tert-butyldimethylsilanyloxy)-2-(tert-butyldimethylsilanyloxymethyl)propan-1-ol | 74.3 mmol, 25.0 g | [Si](C)(C)(C(C)(C)C)OCC(CO)CO[Si](C)(C)C(C)(C)C | C16H38O3Si2
reactant | triethylamine | 223 mmol, 22.6 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 111 mmol, 12.8 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | water | 130 mL | O | H2O
solvent | ethyl acetate | 350 mL | C(C)(=O)OCC | C4H8O2
product | methanesulfonic acid 3-(tert-butyldimethylsilanyloxy)-2-(tert-butyldimethylsilanyloxymethyl)propyl ester | 29.5 g, 97% | [Si](C)(C)(C(C)(C)C)OCC(COS(=O)(=O)C)CO[Si](C)(C)C(C)(C)C | C17H40O5SSi2
